US05591752
11-(2-Phenylsulfonylaminoethylthio)-2-(7-chloroquinolin-2-yl)methoxy-6,11-dihydrodibenz[b,e]oxepine: (Exemplary compound 208)
11-(2-Aminoethylthio)-2-(7-chloroquinolin-2-yl)methoxy-6,11-dihydrodibenz[b,e]oxepine and phenylsulfonyl chloride were used and reacted in the same manner as in Example 34 to obtain the title compound.

reactant | 11-(2-Aminoethylthio)-2-(7-chloroquinolin-2-yl)methoxy-6,11-dihydrodibenz[b,e]oxepine | NCCSC1C2=C(OCC3=C1C=CC=C3)C=CC(=C2)OCC2=NC3=CC(=CC=C3C=C2)Cl | C26H23ClN2O2S
reactant | phenylsulfonyl chloride | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
product | 11-(2-Phenylsulfonylaminoethylthio)-2-(7-chloroquinolin-2-yl)methoxy-6,11-dihydrodibenz[b,e]oxepine | C1(=CC=CC=C1)S(=O)(=O)NCCSC1C2=C(OCC3=C1C=CC=C3)C=CC(=C2)OCC2=NC3=CC(=CC=C3C=C2)Cl | C32H27ClN2O4S2
